US09260439B2
Step 4: Preparation of tert-butyl(3S)-3-[4-(2-aminopyrimidin-5-yl)-2-(methylsulfanyl)-5,6-dihydro-7H-pyrrolo[2,3-d]pyrimidin-7-yl]-3-methylpyrrolidine-1-carboxylate
To a suspension of tert-butyl(3S)-3-[4-chloro-2-(methylsulfanyl)-5,6-dihydro-7H-pyrrolo[2,3-d]pyrimidin-7-yl]-3-methylpyrrolidine-1-carboxylate (1.24 g, 3.22 mmol) and 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrimidin-2-amine (1.0 g, 4.6 mmol) in dioxane (16 mL) was added 1 M Na2CO3 solution (13 mL, 12.9 mmol) at room temperature. The reaction mixture was purged with nitrogen for a few minutes before adding PdCl2(dppf)-DCM (395 mg, 0.484 mmol). The reaction mixture was heated at 120° C. for 40 h in a microwave reactor. The mixture was filtered through a pad of Celite® rinsing with EtOAc several times, concentrated and purified via ISCO normal phase silica gel chromatography (40 g column) with a 0-100% gradient of EtOAc/Heptane to give the title compound (828 mg, 58%) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ 8.72 (d, J=4.6 Hz, 2 H), 7.06 (s, 2 H), 3.79-3.64 (m, 3 H), 3.63-3.51 (m, 1 H), 3.39-3.34 (m, 2 H), 3.21-3.14 (m, 2 H), 2.45 (s, 3 H), 2.41-2.27 (m, 1 H), 2.10-1.99 (m, 1 H), 1.40 (s, 9 H), 1.28 (s, 3 H). m/z (APCI+) for C21H29N7O2S 444.2 (M+H)+.

reactant | tert-butyl(3S)-3-[4-chloro-2-(methylsulfanyl)-5,6-dihydro-7H-pyrrolo[2,3-d]pyrimidin-7-yl]-3-methylpyrrolidine-1-carboxylate | 3.22 mmol, 1.24 g | ClC=1C2=C(N=C(N1)SC)N(CC2)[C@@]2(CN(CC2)C(=O)OC(C)(C)C)C | C17H25ClN4O2S
reactant | 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrimidin-2-amine | 4.6 mmol, 1.0 g | CC1(OB(OC1(C)C)C=1C=NC(=NC1)N)C | C10H16BN3O2
reactant | Na2CO3 | 12.9 mmol, 1 M, 13 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 16 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) DCM | 0.484 mmol, 395 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | tert-butyl(3S)-3-[4-(2-aminopyrimidin-5-yl)-2-(methylsulfanyl)-5,6-dihydro-7H-pyrrolo[2,3-d]pyrimidin-7-yl]-3-methylpyrrolidine-1-carboxylate | 828 mg, 58% | NC1=NC=C(C=N1)C=1C2=C(N=C(N1)SC)N(CC2)[C@@]2(CN(CC2)C(=O)OC(C)(C)C)C | C21H29N7O2S
